US05260285
To a solution of 78 mg (0.189 mmol) methyl 2-cyclopropyl-7-methyl-3-[(2'-aminobiphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylate and 312 mg (1.52 mmol) 2,6-di-t-butyl-4-methylpyridine in 10 mL methylene chloride at 0° C. was added 0.128 mL (0.761 mmol) trifluoromethanesulfonic anhydride in 0.5 mL methylene chloride. After 20 minutes the mixture was diluted with 20 mL methylene chloride, was made basic with 5% sodium bicarbonate solution, was reacidified with acetic acid, then was extracted 3 times with methylene chloride. The combined organic material was dried over MgSO4, stripped of solvent in vacuo, was stripped from toluene, then was chromatographed on silica gel under medium pressure using 20% EtOAc/hexanes to give 110 mg (86% yield) of methyl 2-cyclopropyl-7-methyl-3-[(-2'-(bis((trifluoromethyl)sulfonyl)amino)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylate. Rf 0.42 in 35% EtOAc/hexanes, visualized by UV, iodine, and ammonium molybdate/ceric sulfate stain. MS (FAB) m/e 677 (M+1).

reactant | methyl 2-cyclopropyl-7-methyl-3-[(2'-aminobiphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 0.189 mmol, 78 mg | C1(CC1)C1=NN2C(N=C(C=C2C)C(=O)OC)=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)N | C25H24N4O2
reactant | 2,6-di-t-butyl-4-methylpyridine | 1.52 mmol, 312 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoromethanesulfonic anhydride | 0.761 mmol, 0.128 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-cyclopropyl-7-methyl-3-[(-2'-(bis((trifluoromethyl)sulfonyl)amino)biphen-4-yl)methyl]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 110 mg, 86% yield | C1(CC1)C1=NN2C(N=C(C=C2C)C(=O)OC)=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C27H22F6N4O6S2
